US07851617B2
4-Fluoroindoline
To a stirred suspension of sodium borohydride (560 mg) in diethylether (6 ml) was added dropwise zinc chloride (1.0M solution in diethyl ether, 7.4 ml). The mixture was stirred at room temperature under argon atmosphere for 1 day. To the resultant mixture was added dropwise a solution of 4-fluoroindole (500 mg) in diethyl ether (5 ml). After being stirred at room temperature under argon atmosphere for 12 days, thereto was added a cold 0.5 N aqueous hydrochloric acid solution (30 ml) at 0° C. After that, the mixture was basified with a cold 2 N aqueous sodium hydroxide solution at 0° C., and extracted with ethyl acetate 3 times. The combined organic layer was dried over magnesium sulfate, and the insoluble materials were filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0-80:20) to give the titled compound (351 mg) as pale yellow oil. APCI-Mass m/Z 138 (M+H). 1H-NMR (DMSO-d6) δ 2.93 (t, J=8.6 Hz, 2H), 3.46 (t, J=8.6 Hz, 2H), 5.78 (br-s, 1H), 6.24-6.31 (m, 2H), 6.87-6.94 (m, 1H).

reactant | sodium borohydride | 560 mg | [BH4-].[Na+]
reactant | 4-fluoroindole | 500 mg | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | hydrochloric acid | 0.5 N, 30 ml | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | diethylether | 6 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 1.0M, 7.4 ml | [Cl-].[Zn+2].[Cl-]
product | 4-Fluoroindoline | 351 mg | FC1=C2CCNC2=CC=C1 | C8H8FN
